US08455112B2
Triphenylene (1 equivalent) is reacted at 0° C. with 2.1 equivalents of AlCl3 and 21.0 equivalents of CH3COCl in CH2Cl2. After stirring at room temp. for 3 hours, the reaction product (acetyltriphenylene) was obtained in 97% yield, and is used in step b).

reactant | Triphenylene | 1 equivalent | C1=CC=CC=2C3=CC=CC=C3C3=CC=CC=C3C12 | C18H12
reactant | AlCl3 | 2.1 equivalents | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | CH3COCl | 21.0 equivalents | CC(=O)Cl | C2H3ClO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | acetyltriphenylene | 97% yield | C(C)(=O)C1=CC=CC=2C3=CC=CC=C3C3=CC=CC=C3C12 | C20H14O
